US05905149
5-alanylamino-3-(8-hydroxyquinol-5-ylmethylen) -2-oxindole.
To a solution of 5-amino-3-(8-hydroxyquinol-5-ylmethylen)-2-oxindole (497 mg, 1.64 mmol) and of t-butoxycarbonyl-L-alanine (360 mg, 1.9 mmol in 80 ml of THF were added 950 mg (1.82 mmol) of benzotriazol-1-yloxytripyrrolidinophosphoniun hexafluorophosphate and 0.2 ml (1.87 mmol) of N-methylmorpholine. The reaction was maintained at room temperature for 4 h. After evaporation of the solvent the residue was purified by flash chromatography with cyclohexane/ethyl acetate 3:7. The evaporated eluant was solubilized in dichloromethane, 10 ml of trifluoroacetic acid was added and the mixture stirred at room temperature for 1 h. After the usual workup pure title compound was obtained in 80% yield (491 mg).

reactant | 5-amino-3-(8-hydroxyquinol-5-ylmethylen)-2-oxindole | 1.64 mmol, 497 mg | NC=1C=C2C(C(NC2=CC1)=O)=CC1=C2C=CC=NC2=C(C=C1)O | C18H13N3O2
reactant | t-butoxycarbonyl-L-alanine | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | N-methylmorpholine | 1.87 mmol, 0.2 ml | CN1CCOCC1 | C5H11NO
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 5-alanylamino-3-(8-hydroxyquinol-5-ylmethylen) -2-oxindole | 80% yield | N[C@@H](C)C(=O)NC=1C=C2C(C(NC2=CC1)=O)=CC1=C2C=CC=NC2=C(C=C1)O | C21H18N4O3
